US05116851
A. 2-(Benzylthio)phenylacetanilide
(Benzylthio)aniline (21.5 g, 0.1 mol) (the preparation of which has been described in Example 1 of U.S. Pat. No. 3,378,586) was reacted with 13.4 ml (0.1 mol) of phenylacetyl chloride in 135 ml of chloroform in the presence of 14.0 ml (0.1 mol) of triethylamine in the manner described under Example 1, part B, to give a solid residue. The latter was redissolved in 35 ml of warm chloroform and diluted with 150 ml of hexane. On seeding and rubbing, a crystalline solid gradually separated. After cooling overnight, the colorless solid was filtered, washed with hexane, and air-dried (22.3 g), m.p. 81°-83°. Following recrystallization from 350 ml of hexane, the title A material weighed 20.8 g, m.p. 82°-84°.

reactant | (Benzylthio)aniline | 0.1 mol, 21.5 g | C(C1=CC=CC=C1)SNC1=CC=CC=C1 | C13H13NS
reactant | phenylacetyl chloride | 0.1 mol, 13.4 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | triethylamine | 0.1 mol, 14.0 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 135 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 35 ml | C(Cl)(Cl)Cl | CHCl3
solvent | hexane | 150 ml | CCCCCC | C6H14
product | 2-(Benzylthio)phenylacetanilide | C(C1=CC=CC=C1)SC1=C(C=CC=C1)CC(=O)NC1=CC=CC=C1 | C21H19NOS
